US05616586
9-Bromo-5-(2-benzothiazolylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and 2-aminobenzothiazole (80 mg, 0.53 mmol) to give 180 mg of the title compound (76%): mp 264°~265° C.; 1H NMR (270 MHz, DMSO-d6) δ12.46 (bs, 1H), 12.09 (s, 1H), 7.99 (d, 1H, J=7.9 Hz), 7.74 (d, 2H, J=7.9 Hz), 7.44 (dt, 1H, J=1.3, 7.9 Hz), 7.31 (dt, 1H, J=1.3, 7.9 Hz), 7.25 (s, 1H), 7.19 (s, 1H), 5.21~5.31 (m, 1H), 3.04 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.69~2.91 (m, 3H), 2.09 (dm, 1H, J=13.5 Hz), 1.85~1.99 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | 2-aminobenzothiazole | 0.53 mmol, 80 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
product | 9-Bromo-5-(2-benzothiazolylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 180 mg, 76% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC=2SC1=C(N2)C=CC=C1)=O | C20H15BrN4O3S
